US08076488B2
Preparation of 4-[3,5-difluoro-4-({[(2,2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)amino]-carbonyl}amino)phenoxy]pyridine-2-carboxamide
A solution of N-{4-[(2-cyanopyridin-4-yl)oxy]-2,6-difluorophenyl}-N′-(2,2,4,4-tetra-fluoro-4H-1,3-benzodioxin-6-yl)urea (100 mg, 0.20 mmol) in acetone (2 ml) and water (1 ml) was treated with sodium percarbonate (contain 25% H2O2, 320 mg, 2.0 mmol), and the mixture was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate (20 ml) and water (10 ml). The organic layer was washed with water (10 ml) and brine (5 ml), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was crystallized from methanol providing 42 mg (41%) of title compound as a white solid. 1H-NMR (DMSO-d6) δ 9.48 (s, 1H), 8.56 (d, J=6.0 Hz, 1H), 8.31 (s, 1H), 8.15 (s, 1H), 8.07 (d, J=2.2 Hz, 1H), 7.74 (s, 1H), 7.68 (dd, J=9.2, 2.7 Hz, 1H), 7.46 (d, J=2.3 Hz, 1H), 7.41 (d, J=9.3 Hz, 1H), 7.25 (m, 2H); MS GC-MS M+=515.0, RT=3.63 min.

reactant | N-{4-[(2-cyanopyridin-4-yl)oxy]-2,6-difluorophenyl}-N′-(2,2,4,4-tetra-fluoro-4H-1,3-benzodioxin-6-yl)urea | 0.20 mmol, 100 mg | C(#N)C1=NC=CC(=C1)OC1=CC(=C(C(=C1)F)NC(=O)NC1=CC2=C(OC(OC2(F)F)(F)F)C=C1)F | C21H10F6N4O4
reactant | sodium percarbonate | 2.0 mmol, 320 mg | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | water | 1 ml | O | H2O
product | 4-[3,5-difluoro-4-({[(2,2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)amino]-carbonyl}amino)phenoxy]pyridine-2-carboxamide | FC=1C=C(OC2=CC(=NC=C2)C(=O)N)C=C(C1NC(=O)NC1=CC2=C(OC(OC2(F)F)(F)F)C=C1)F | C21H12F6N4O5
